US06436964B1
A 100 mL round bottom flask was charged with 2-picoline (2.97 mL, 30.05 mmol) and anhydrous THF (30 mL). The solution was cooled to −78° C. and n-butyllithium (20.7 mL of a 1.6 M solution in THF, 33.1 mmol) was added dropwise. The reaction mixture was slowly warmed to room temperature and then stirred for one hour. The reaction mixture was then cooled back to −78° C. and N-methoxy-N-methyl-cyclopentyl amide (5.0 g, 31.85 mmol) was added. The reaction mixture was allowed to warm to room temperature overnight with stirring and then quenched with 0.1 N HCl to pH 9. The mixture was then extracted with methylene chloride, the organic extracts were combined, dried over anhydrous sodium sulfate, filtered and concentrated under vacuum. The residue was purified by flash chromatography (ethyl acetate:hexane, 3:7, silica gel) to provide 1-cyclopentyl-2-(2-pyridyl)ethan-1-one (4.35 g, 77%).

reactant | 2-picoline | 30.05 mmol, 2.97 mL | N1=C(C=CC=C1)C | C6H7N
reactant | n-butyllithium | C(CCC)[Li]
reactant | THF | C1CCOC1 | C4H8O
reactant | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-cyclopentyl-2-(2-pyridyl)ethan-1-one | 4.35 g, 77% | C1(CCCC1)C(CC1=NC=CC=C1)=O | C12H15NO
